US08937071B2
To a solution of 2-(4-bromo-2-fluorophenyl)acetic acid (144 mg, 0.617 mmol), 3,4-dichloroaniline (100 mg, 0.617 mmol) and HATU (704 mg, 1.852 mmol) in DCM (20 mL) was added Et3N (0.258 mL, 1.852 mmol) dropwise. Then the mixture was stirred at 20° C. under a N2 atmosphere for 3 h. After LCMS analysis showed the starting material had disappeared, the solvent was removed in vacuo. Then the crude product was dissolved in DCM and washed with H2O and brine. The organic layer was evaporated to dryness to give the crude product which was purified by silica column chromatography (PE/EA=100/1 to 8/1) to afford pure product 2-(4-bromo-2-fluorophenyl)-N-(3,4-dichlorophenyl)acetamide (190 mg, 0.419 mmol, 67.8% yield): 1H NMR: (400 MHz, CD3OD) δ 10.25 (br. s, 1H), 7.89 (s, 1H), 7.44 (s, 2H), 7.28-7.37 (m, 3H), 3.74 (s, 2H); ES-LCMS: m/z 377.9 (M+H).

reactant | 2-(4-bromo-2-fluorophenyl)acetic acid | 0.617 mmol, 144 mg | BrC1=CC(=C(C=C1)CC(=O)O)F | C8H6BrFO2
reactant | 3,4-dichloroaniline | 0.617 mmol, 100 mg | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
reactant | HATU | 1.852 mmol, 704 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Et3N | 1.852 mmol, 0.258 mL | CCN(CC)CC | C6H15N
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-bromo-2-fluorophenyl)-N-(3,4-dichlorophenyl)acetamide | 0.419 mmol, 190 mg, 67.8% yield | BrC1=CC(=C(C=C1)CC(=O)NC1=CC(=C(C=C1)Cl)Cl)F | C14H9BrCl2FNO
